US08084448B2
D. N-(t-Butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-iodophenyl)glycine Tert-butyl Ester
To an ice cooled solution of chlorosulfonyl isocyanate (0.788 mL, 8.94 mmol) in methylene chloride (40 mL) is added dropwise t-butanol (0.855 mL, 8.94 mmol). Then at 0° C., (2-benzyloxy-4-iodophenylamino)-acetic acid tert-butyl ester (2.62 g, 5.96 mmol) and triethylamine (2.08 mL, 14.9 mmol) in methylene chloride (40 mL) is added dropwise. After stirring for 30 min, methylene chloride (300 mL) is added and the organic layer is washed with 2N HCl solution. It is then dried with NaSO4, and concentrated. The residue is purified by column chromatography to give the title compound as an off-white foam.

reactant | chlorosulfonyl isocyanate | 8.94 mmol, 0.788 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 8.94 mmol, 0.855 mL | C(C)(C)(C)O | C4H10O
reactant | (2-benzyloxy-4-iodophenylamino)-acetic acid tert-butyl ester | 5.96 mmol, 2.62 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)I)OCC1=CC=CC=C1)=O | C19H22INO3
reactant | triethylamine | 14.9 mmol, 2.08 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-iodophenyl)glycine Tert-butyl Ester | C(C)(C)(C)OC(CN(C1=C(C=C(C=C1)I)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C24H31IN2O7S
